US09227982B2
Intermediate 3. Benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate
To benzyl 2-amino-2-iminoethylcarbamate (1.77 g, 8.54 mmol) in methanol (67.5 mL) was added methyl 4-oxotetrahydro-2H-pyran-3-carboxylate (1.35 g, 8.54 mmol) and potassium carbonate (3.54 g, 25.6 mmol). The reaction mixture was stirred 15 h at room temperature. The solution was filtered and concentrated under vacuum. Purification was accomplished on a 100 g Isco column with 0% to 10% methanol in dichloromethane over 20 column volumes to give title compound (1.63 g, 59% yield). Exact mass calculated for C16H17N3O4 315.3. found 316.2 (ESI, M+H); 1H NMR (400 MHz, MeOD) δ ppm 7.17-7.46 (m, 5H) 5.11 (s, 2H) 4.47 (br. s., 2H) 4.22 (s, 2H) 3.92 (t, J=5.31 Hz, 2H) 2.65 (br. s., 2H).

reactant | benzyl 2-amino-2-iminoethylcarbamate | 8.54 mmol, 1.77 g | NC(CNC(OCC1=CC=CC=C1)=O)=N | C10H13N3O2
reactant | methyl 4-oxotetrahydro-2H-pyran-3-carboxylate | 8.54 mmol, 1.35 g | O=C1C(COCC1)C(=O)OC | C7H10O4
reactant | potassium carbonate | 25.6 mmol, 3.54 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 67.5 mL | CO | CH4O
product | Benzyl (4-oxo-4,5,7,8-tetrahydro-3H-pyrano[4,3-d]pyrimidin-2-yl)methylcarbamate | 1.63 g, 59% yield | O=C1C2=C(N=C(N1)CNC(OCC1=CC=CC=C1)=O)CCOC2 | C16H17N3O4
